US07601714B2
N-(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)glycine
To a solution of (4-{[5-nitro-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexylamino)-acetic acid tert-butyl ester (60 mg, 0.108 mmol) in DCM (1 mL) was added TFA (1 mL). The solution was allowed to stand at room temperature for 16 h before the solvent was removed in vacuo. The residue was taken up in water (1 mL) and 2 N NaOH added until the mixture reached pH 5. The mixture was diluted with water (3 mL) and filtered. The filtered solid was washed with water and Et2O before drying in vacuo to afford the target compound (46 mg, 85%) as a white solid, m/z 499 [M+1]+.

reactant | (4-{[5-nitro-2-(2-trifluoromethoxy-benzylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexylamino)-acetic acid tert-butyl ester | 0.108 mmol, 60 mg | C(C)(C)(C)OC(CNC1CCC(CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F)=O | C25H33F3N6O5
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(trans-4-{[(5-nitro-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)glycine | 46 mg, 85% | [N+](=O)([O-])C=1C(=NC(=NC1)NCC1=C(C=CC=C1)OC(F)(F)F)NC[C@@H]1CC[C@H](CC1)NCC(=O)O | C21H25F3N6O5
